** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/verification/testbenches/contador1bit.sch
**.subckt contador1bit
x1 vss net1 net2 net3 net4 vss sout circuito_completo
V1 vdd vss DC{vdd}
V6 clk vss PULSE({vdd} 0 0.0 1p 1p {Tclk/4} {Tclk/2}) DC 0 AC 0
V3 vss 0 DC{vss}
**** begin user architecture code


* Circuit Parameters
.param vdd = 1.2
.param vss = 0.0
.param Tclk = 10n
.options TEMP = 27.0
* Include Models - IHP SG13G2
.lib cornerMOSlv.lib mos_tt
* OP Parameters & Singals to save
.save all
*Simulations
.control
tran 0.01u 100n
setplot tran1
plot v(clk) v(Dn)
reset
setplot dc
plot vin vout ylabel vout xlabel vin
set filetype = ascii
write dcsweep.raw
.endc
.end


**** end user architecture code
**.ends

* expanding   symbol:  blocks/circuito_completo/circuito_completo.sym # of pins=7
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/circuito_completo/circuito_completo.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/circuito_completo/circuito_completo.sch
.subckt circuito_completo clr Dn CE CLK vdd vss Sout
*.iopin vdd
*.iopin vss
*.iopin CE
*.iopin Sout
*.iopin CLK
*.iopin clr
*.iopin Dn
x1 net3 net4 net2 vss net5 net6 flipflop
x2 vdd net7 CE net2 net8 puertaxor
x3 vdd Sout CE net1 vss puertaand
.ends


* expanding   symbol:  blocks/flipflop/flipflop.sym # of pins=6
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/flipflop/flipflop.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/flipflop/flipflop.sch
.subckt flipflop vdd Q D vss clr clk
*.iopin D
*.iopin vdd
*.iopin vss
*.iopin clk
*.iopin clr
*.iopin Q
x1 clk net1 D vss net7 interruptor
x2 net8 net9 net1 net10 untitled
x3 net11 net5 net4 net12 vdd interruptor
x4 net13 net14 net1 vss net15 interruptor
x5 vdd n_clk net16 vss untitled
x6 net17 net18 net19 net20 vdd interruptor
x7 net21 net22 net23 net5 net24 puertanor
x8 vdd net3 net4 net25 net26 puertanor
x9 net27 net28 net29 vss untitled
.ends


* expanding   symbol:  blocks/puertaxor/puertaxor.sym # of pins=5
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/puertaxor/puertaxor.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/puertaxor/puertaxor.sch
.subckt puertaxor Vdd A B Z vss
*.iopin A
*.iopin B
*.iopin vss
*.iopin Z
*.iopin Vdd
XM1 Z A net1 Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 net1 bb Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM3 Vdd net4 net1 Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM4 net1 B Z Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM5 Z ab net2 vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM6 net2 bb vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM7 net3 A Z vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM8 vss B net3 vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM9 ab A Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM10 ab A vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM11 bb B Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM12 bb B vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  blocks/puertaand/puertaand.sym # of pins=5
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/puertaand/puertaand.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/puertaand/puertaand.sch
.subckt puertaand vdd out A B vss
*.iopin A
*.iopin B
*.iopin vdd
*.iopin vss
*.iopin out
XM1 net2 B vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 net1 A net2 vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM3 net1 A vdd vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM4 net1 B vdd vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM5 out net1 vdd vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM6 out net1 vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  blocks/interruptor/interruptor.sym # of pins=5
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/interruptor/interruptor.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/interruptor/interruptor.sch
.subckt interruptor clk out in vss vdd
*.iopin clk
*.iopin in
*.iopin out
*.iopin vdd
*.iopin vss
XM1 out net1 in vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 out clk in vss sg13_lv_nmos w=0.15u l=0.13u ng=1
x1 vdd net1 clk vss inversor
.ends


* expanding   symbol:  blocks/inversor/untitled.sym # of pins=4
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inversor/untitled.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inversor/untitled.sch
.subckt untitled Vdd Out in Vss
*.iopin Vdd
*.iopin Out
*.iopin Vss
*.iopin in
XM1 Out in Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 Out in Vss Vss sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  blocks/puertanor/puertanor.sym # of pins=5
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/puertanor/puertanor.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/puertanor/puertanor.sch
.subckt puertanor vdd vout B A vss
*.iopin vdd
*.iopin vout
*.iopin B
*.iopin vss
*.iopin A
XM1 net1 B vdd vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 vout A net1 vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM3 vout A vss net3 sg13_lv_nmos w=0.15u l=0.13u ng=1
XM4 vout B vss net4 sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  blocks/inversor/schematic/inversor.sym # of pins=4
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inversor/schematic/inversor.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inversor/schematic/inversor.sch
.subckt inversor Vdd out in vss
*.iopin Vdd
*.iopin out
*.iopin vss
*.iopin in
XM1 out in Vdd Vdd sg13_lv_pmos w=0.15u l=0.13u ng=1
XM2 out in vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends

.end
